**********************************************************************************************************
* Biolek Model
***********************************************************************************************************
simulator lang=spectre
include "model/biolek.scs"

VDD1 vcc 0 vsource type=pwl wave=[0 1u 50n 1u 50.01n 1 100n 1 100.01n 1u 150n 1u 150.01n -1 200n -1 200.01n 1u]
VSS1 vss 0 vsource dc=0
XMEMRISTOR vcc vss 0 biolek